US05430150
[S-(R*,R*)]-[1-[[(1H-Benzimidazol-2-ylmethyl)amino]carbonyl]-2-methylbutyl]carbamic acid 1,1-dimethylethyl ester
The title compound is prepared by the procedure of Example 1 using 0.505 g of N-(tert-butoxycarbonyl)-L-isoleucine in 10 ml of methylene chloride, 0.500 g of 2-(aminomethyl)benzimidazole dihydrochloride hydrate, 1.07 g of BOP, and 0,850 g of triethylamine. Purification by chromatography (75 g Silica gel; 70% ethyl acetate/hexane) gives 0.669 g of the desired product.

reactant | N-(tert-butoxycarbonyl)-L-isoleucine | 0.505 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
reactant | 2-(aminomethyl)benzimidazole dihydrochloride hydrate | 0.500 g | O.Cl.Cl.NCC=1NC2=C(N1)C=CC=C2
reactant | BOP | 1.07 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0,850 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | [1-[[(1H-Benzimidazol-2-ylmethyl)amino]carbonyl]-2-methylbutyl]carbamic acid 1,1-dimethylethyl ester | 0.669 g | CC(C)(C)OC(NC(C(CC)C)C(=O)NCC1=NC2=C(N1)C=CC=C2)=O | C19H28N4O3
